US05354937
100 g of 3,4,4-trimethylhex-1-yn-3-ol, 3 g of quinoline and 5.4 g of Lindlar catalyst were initially introduced in 100 ml of petroleum ether and the mixture was stirred at 25° C. for 10 hours under a hydrogen atmosphere. The catalyst was then filtered off, the filtrate was concentrated and the residue was analyzed by means of GC. 91 g (90%) of 3,4,4-trimethylhex-1-en-3-ol were obtained. The residue was processed without purification.

reactant | 3,4,4-trimethylhex-1-yn-3-ol | 100 g | CC(C#C)(C(CC)(C)C)O | C9H16O
reactant | quinoline | 3 g | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Lindlar catalyst | 5.4 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 3,4,4-trimethylhex-1-en-3-ol | 91 g, 90% | CC(C=C)(C(CC)(C)C)O | C9H18O
